US07479559B2
A solution of 9.0 g (40.5 mmol) of 5-Fluoro-2-(4-methyl-piperazin-1-yl)-benzaldehyde and 5.1 g (40.5 mmol) of N-acetylpyrrolidinone in 80 mL of tetrahydrofuran is slowly added to a 0° C. solution of 5.4 g (133.6 mmol) of sodium hydride in 80 mL of tetrahydrofuran over a 2 hour period. After 2.5 hour at 0° C., the reaction is quenched with sat. ammonium chloride and extracted with methylene chloride. The organic layer is dried with magnesium sulfate and concentrated to provide a yellow solid. Recrystallization from ethyl acetate and diispropyl ether provided 3.92 g (33%) of 3-[5-Fluoro-2-(4-methyl-piperazin-1-yl)-benzylidene]-pyrrolidin-2-one as a white solid. Diagnostic C13 NMR (100 MHz, CDCl3) 26.4, 39.9, 46.1, 52.9, 55.3, 115.2, 115.5, 115.8, 116.0, 120.2, 120.3, 126.7, 131.1, 148.9, 157.3, 159.7, 172.8; MS m/z 290.3 (M+1).

reactant | 5-Fluoro-2-(4-methyl-piperazin-1-yl)-benzaldehyde | 40.5 mmol, 9.0 g | FC=1C=CC(=C(C=O)C1)N1CCN(CC1)C | C12H15FN2O
reactant | N-acetylpyrrolidinone | 40.5 mmol, 5.1 g | C(C)(=O)N1C(CCC1)=O | C6H9NO2
reactant | sodium hydride | 133.6 mmol, 5.4 g | [H-].[Na+]
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
product | 3-[5-Fluoro-2-(4-methyl-piperazin-1-yl)-benzylidene]-pyrrolidin-2-one | 3.92 g, 33% | FC=1C=CC(=C(C=C2C(NCC2)=O)C1)N1CCN(CC1)C | C16H20FN3O
